US04402960
3.12 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole is dissolved in 50 ml of absolute dimethylformamide and combined with 0.3 g of sodium hydride (80% strength in white oil). The mixture is stirred for 30 minutes and then 1.26 g of 2-chloropyrimidine in 25 ml of dimethylformamide is added dropwise thereto. The reaction mixture is combined with a pinch of powdered copper and stirred for one week under argon at room temperature. The solution is then poured into 300 ml of ice water, the product is extracted with ethyl acetate, the organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is recrystallized from glacial acetic acid/ether, thus obtaining 2.87 g of 4,5-bis(4-methoxyphenyl)-2-(2-pyrimidylthio)imidazole, mp 86°.

reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 3.12 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 2-chloropyrimidine | 1.26 g | ClC1=NC=CC=N1 | C4H3ClN2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | copper | [Cu] | Cu
product | 4,5-bis(4-methoxyphenyl)-2-(2-pyrimidylthio)imidazole | 2.87 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=NC=CC=N1 | C21H18N4O2S
